### PR TITLE
[Merged by Bors] - feat: more lemmas on lattices within intervals

### PR DESCRIPTION
**Pull request by eric-wieser**
We had these already for `Icc`, this adds them for the other intervals.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/LatticeIntervals.lean [hunk 1]
```diff
@@ -35,9 +35,20 @@ namespace Ico
 instance semilatticeInf [SemilatticeInf α] {a b : α} : SemilatticeInf (Ico a b) :=
   Subtype.semilatticeInf fun _ _ hx hy => ⟨le_inf hx.1 hy.1, lt_of_le_of_lt inf_le_left hx.2⟩
 
+@[simp, norm_cast]
+protected lemma coe_inf [SemilatticeInf α] {a b : α} {x y : Ico a b} :
+    (↑(x ⊓ y) : α) = (x : α) ⊓ (y : α) :=
+  rfl
 /-- `Ico a b` has a bottom element whenever `a < b`. -/
```
Comment (YaelDillies) [inline Mathlib/Order/LatticeIntervals.lean]:
```suggestion
  rfl

/-- `Ico a b` has a bottom element whenever `a < b`. -/
```

File: Mathlib/Order/LatticeIntervals.lean [hunk 2]
```diff
@@ -35,9 +35,20 @@ namespace Ico
...
-protected abbrev orderBot [PartialOrder α] {a b : α} (h : a < b) : OrderBot (Ico a b) :=
-  (isLeast_Ico h).orderBot
+instance orderBot [PartialOrder α] {a b : α} [Fact (a < b)] : OrderBot (Ico a b) :=
+  (isLeast_Ico Fact.out).orderBot
+
+@[simp, norm_cast]
+protected lemma coe_bot [PartialOrder α] {a b : α} [Fact (a < b)] : ↑(⊥ : Ico a b) = a := rfl
+
+protected lemma disjoint_iff [SemilatticeInf α] {a b : α} [Fact (a < b)] {x y : Ico a b} :
+    Disjoint x y ↔ (x : α) ⊓ (y : α) = a := by
```
Comment (YaelDillies) [inline Mathlib/Order/LatticeIntervals.lean]: Just style, but I'd expect
```suggestion
    Disjoint x y ↔ (x ⊓ y : α) = a := by
```

File: Mathlib/Order/LatticeIntervals.lean [hunk 3]
```diff
@@ -46,16 +57,33 @@ namespace Iio
 instance semilatticeInf [SemilatticeInf α] {a : α} : SemilatticeInf (Iio a) :=
   Subtype.semilatticeInf fun _ _ hx _ => lt_of_le_of_lt inf_le_left hx
 
+@[simp, norm_cast]
+protected lemma coe_inf [SemilatticeInf α] {a : α} {x y : Iio a} :
+    (↑(x ⊓ y) : α) = (x : α) ⊓ (y : α) :=
```
Comment (YaelDillies) [inline Mathlib/Order/LatticeIntervals.lean]: and here
```suggestion
    ↑(x ⊓ y) = (x ⊓ y : α) :=
```

File: Mathlib/Order/LatticeIntervals.lean [hunk 4]
```diff
@@ -173,6 +211,19 @@ theorem coe_top [Preorder α] [OrderTop α] {a : α} : ↑(⊤ : Ici a) = (⊤ :
 instance boundedOrder [Preorder α] [OrderTop α] {a : α} : BoundedOrder (Ici a) :=
   { Ici.orderTop, Ici.orderBot with }
 
+
```
Comment (YaelDillies) [inline Mathlib/Order/LatticeIntervals.lean]:
```suggestion
```

File: Mathlib/Order/LatticeIntervals.lean [hunk 5]
```diff
@@ -173,6 +211,19 @@ theorem coe_top [Preorder α] [OrderTop α] {a : α} : ↑(⊤ : Ici a) = (⊤ :
...
+protected lemma disjoint_iff [SemilatticeInf α] {a : α} {x y : Ici a} :
+    Disjoint x y ↔ ↑x ⊓ ↑y = a := by
+  simp [_root_.disjoint_iff, Subtype.ext_iff]
+
+protected lemma codisjoint_iff [SemilatticeSup α] [OrderTop α] {a : α} {x y : Ici a} :
+    Codisjoint x y ↔ Codisjoint (x : α) (y : α) := by
```
Comment (YaelDillies) [inline Mathlib/Order/LatticeIntervals.lean:216]: I'd expect this lemma to be stated the other way, or at to be `norm_cast`

File: Mathlib/Order/LatticeIntervals.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Order/LatticeIntervals.lean]: I agree, I was copying the existing style in this file. Changed to something similar.

File: Mathlib/Order/LatticeIntervals.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Order/LatticeIntervals.lean:216]: This matches the existing API, and `norm_cast` is illegal here.

Comment (YaelDillies) [reply Mathlib/Order/LatticeIntervals.lean:216]: Sorry, my message got mangled. I meant "be `norm_cast` the other way"

File: Mathlib/Order/LatticeIntervals.lean [hunk 6]
```diff
@@ -35,9 +35,21 @@ namespace Ico
...
+  rfl
+
 /-- `Ico a b` has a bottom element whenever `a < b`. -/
-protected abbrev orderBot [PartialOrder α] {a b : α} (h : a < b) : OrderBot (Ico a b) :=
-  (isLeast_Ico h).orderBot
+instance orderBot [PartialOrder α] {a b : α} [Fact (a < b)] : OrderBot (Ico a b) :=
+  (isLeast_Ico Fact.out).orderBot
+
+@[simp, norm_cast]
+protected lemma coe_bot [PartialOrder α] {a b : α} [Fact (a < b)] : ↑(⊥ : Ico a b) = a := rfl
```
Comment (YaelDillies) [inline Mathlib/Order/LatticeIntervals.lean]:
```suggestion
protected lemma coe_bot [PartialOrder α] (a b : α) [Fact (a < b)] : ↑(⊥ : Ico a b) = a := rfl
```
looks quite useful for rewriting backwards. Same below

**Review by YaelDillies — APPROVED** [review]

**Comment by YaelDillies** [comment]
I'll let you decide on the `norm_cast` issue

maintainer delegate

File: Mathlib/Order/LatticeIntervals.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Order/LatticeIntervals.lean:216]: I think in most cases the current forward direction is more convenient, so I'd prefer to leave it as is. `norm_cast ←` might be a nice feature to request in core.

File: Mathlib/Order/LatticeIntervals.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Order/LatticeIntervals.lean]: Reasonable, done.

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by eric-wieser** [comment]
bors merge
